US05177096
(E)-1-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-4-formyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl)-3-(2-thienyl)-1-propene
The title compound is prepared by manganese dioxide oxidation of the 4-hydroxymethyl-group of (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-hydroxymethyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl]-3-(2-thienyl)-1-propene, prepared in Example 18.

reactant | (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-hydroxymethyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl]-3-(2-thienyl)-1-propene | C(CCC)C=1N(C(=C(N1)CO)\C=C(/CC=1SC=CC1)\C1=NN=NN1)CC1=C(C=CC=C1)Cl | C23H25ClN6OS
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | (E)-1-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-4-formyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl)-3-(2-thienyl)-1-propene | C(CCC)C=1N(C(=C(N1)C=O)\C=C(/CC=1SC=CC1)\C1=NN=NN1)CC1=C(C=CC=C1)Cl | C23H23ClN6OS
